US09062015B2
FS105: 6′-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2,3,5,6-tetrahydro-1,2′-bipyrazinyl-4-carboxylic acid tert-butyl ester
The preparation is carried out analogously to FS 102 starting from 6′-chloro-2,3,5,6-tetrahydro-1,2′-bipyrazinyl-4-carboxylic acid tert-butyl ester (preparation analogous to US 2005/176722) and 5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-ylboronic acid.

reactant | 6′-chloro-2,3,5,6-tetrahydro-1,2′-bipyrazinyl-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CN=C1)Cl | C13H19ClN4O2
reactant | 5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-ylboronic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)B(O)O)C | C14H21BO2
product | 6′-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-2,3,5,6-tetrahydro-1,2′-bipyrazinyl-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CN=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C27H38N4O2
